US04172130
L-Tryptophyl-L-leucyl-L-aspartyl-L-phenylalanine-amide
7.1 g (10.5 mmoles) of BOC--Trp--Leu--Asp--Phe--NH2, prepared as described in Example 5, Step 2, are poured into 60 ml of hydrochloric acid in dioxane. The reaction mixture is initially turbid, but it gets clear within 3 minutes. After 10 minutes the solution is diluted with dry ether, the separated oily substance is solidified and filtered off. The resulting 6.96 g of hydrochloride are dissolved in 150 ml of warm water. Te pH of the solution is adjusted to 7 with solid sodium bicarbonate under cooling. The resulting suspension is filtered, and the precipitate is washed with a great proportion of water. 5.05 g (83.1 %) of H--Trp--Leu--Asp--Phe--NH2 are obtained; the chromatographically uniform substance melts at 228°-230° C. (decomposition). The product is identical with that obtained in Example 4, Step 4.

reactant | BOC--Trp--Leu--Asp--Phe--NH2 | 10.5 mmoles, 7.1 g | CCCCOC(=O)NC(=O)[C@H](CC1=CC=CC=C1)NC(=O)[C@H](CC(=O)O)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CC2=CNC3=CC=CC=C32)N | C35H46N6O8
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | L-Tryptophyl-L-leucyl-L-aspartyl-L-phenylalanine-amide | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N | C30H38N6O6
